US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid hydrazide
To a suspension of 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester (37.5 mg, 0.1 mmol) in EtOH (1 mL) was added anhydrous hydrazine (32 mg, 1 mmol). The reaction mixture was heated at 90° C. for 18 h, cooled to the room temperature, filtered to get the solid precipitate that was dried under reduced pressure to afford the title compound (25 mg, 33%). 1H NMR (DMSO-d6) δ 3.92 (s, 3H), 4.51 (br s, 2H, NH), 7.11-7.17 (2H), 7.63 (d, J=9 Hz, 1H), 7.71 (d, J=9 Hz, 1H), 7.79-7.85 (2H), 8.10-8.21 (2H), 8.29 (s, 1H), 9.87 (br, 1H, NH). ESI-MS m/z 376.3 (MH+).

reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.1 mmol, 37.5 mg | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C21H17N3O4
reactant | hydrazine | 1 mmol, 32 mg | NN | H4N2
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid hydrazide | 25 mg, 33% | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C20H17N5O3
